US08648069B2
1-benzyl-4-(tributylstannyl)-1H-1,2,3-triazole
Ethynyltributylstannane (1 mL, 3.4 mmol) and benzyl azide (0.65 mL, 5.2 mmol) were heated to 130° C. for 24 hours. The mixture was adsorbed onto silica gel, and purified by silica gel chromatography eluting with 1:4 ethyl acetate:hexanes to afford the title compound.

reactant | Ethynyltributylstannane | 3.4 mmol, 1 mL | C(#C)[Sn](CCCC)(CCCC)CCCC
reactant | benzyl azide | 5.2 mmol, 0.65 mL | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
product | 1-benzyl-4-(tributylstannyl)-1H-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC(=C1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H8N3.3C4H9.Sn/c1-2-4-9(5-3-1)8-12-7-6-10-11-12;3*1-3-4-2;/h1-5,7H,8H2;3*1,3-4H2,2H3;
